US05284847
A mixture of methyl 3-aminothiophene-2-carboxylate (25.0 g, 159 mmol) in 250 ml of pyridine was stirred under nitrogen in an ice bath, while di-tert-butyl dicarbonate (38.17 g, 174.9 mmol) and 4-dimethylaminopyridine (19.43 g, 159 mmol) was added . The stirred mixture was maintained at 0° C. for 1 hour and left at room temperature for 64 hours. The mixture was evaporated to dryness under reduced pressure and 300 ml of methanol was added. The mixture was filtered, washed with methanol and 300 ml of water was added to the filtrate. The precipitate was filtered off, washed with water, and dried to afford 29.8 g (73%) of methyl 3-t-butoxycarbonylaminothiophene-2-carboxylate. M.p. 88°-89° C. 1H-NMR (DMSO-d6, δ): 1.50 (s, 9H), 3.82 (s, 3H), 7.75 (d, 1H), 7.90 (d, 1H), 9.31 (s, 1H).

reactant | methyl 3-aminothiophene-2-carboxylate | 159 mmol, 25.0 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | di-tert-butyl dicarbonate | 174.9 mmol, 38.17 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 159 mmol, 19.43 g | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 3-t-butoxycarbonylaminothiophene-2-carboxylate | 29.8 g, 73% | C(C)(C)(C)OC(=O)NC1=C(SC=C1)C(=O)OC | C11H15NO4S
